US08030302B2
5-(Benzyloxy)-6-(6-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
To a solution of 5-(benzyloxy)-6-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (4 g, 10.3 mmol) in 1,4-dioxane (25 mL) is added bis(pinacolato)diboron (3 g, 11.8 mmol), dppf (0.3 g, 541 μmol), PdCl2(dppf) (0.42 g, 514 μmol) and KOAc (2 g, 20.4 mmol) under N2. After the reaction mixture is stirred at reflux for 5 hours, 5-bromo-2-methylpyridine (2.1 g, 12.2 mmol), tetrakis(triphenylphosphine)palladium (Pd(PPh3)4) (0.6 g, 519 μmol) and Cs2CO3 (4 g, 12.3 mmol) are added and the mixture is stirred at reflux overnight. The reaction mixture is cooled and filtered, the filtrate is concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (2:1) to give the product (1.9 g, 46.0% yield). MS (m/z): 400.1 (M+H).

reactant | 5-(benzyloxy)-6-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 10.3 mmol, 4 g | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1Br)C1OCCCC1 | C19H19BrN2O2
reactant | bis(pinacolato)diboron | 11.8 mmol, 3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 20.4 mmol, 2 g | CC(=O)[O-].[K+]
reactant | 5-bromo-2-methylpyridine | 12.2 mmol, 2.1 g | BrC=1C=CC(=NC1)C | C6H6BrN
reactant | Cs2CO3 | 12.3 mmol, 4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 541 μmol, 0.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | PdCl2(dppf) | 514 μmol, 0.42 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 519 μmol, 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(Benzyloxy)-6-(6-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 1.9 g, 46.0% yield | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1C=1C=NC(=CC1)C)C1OCCCC1 | C25H25N3O2
